US04370340
To a sodium ethoxide solution prepared with sodium metal (460 mg) and anhydrous ethanol (50 ml) was added 2-bromo-4-phenoxybenzothiazole (3.0 g). The mixture was refluxed with stirring 45 minutes. The solvent was removed under reduced pressure to give a residue, to which was added 10% hydrochloric acid (30 ml) and acetone (50 ml). The resultant mixture was refluxed with stirring for 2 hours. The solvent was removed under reduced pressure to give a residue, which was recrystallized from a mixture of ethanol and n-hexane to give crystalline 2-oxo-4-phenoxybenzothiazoline (2.0 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 460 mg | [Na] | Na
reactant | 2-bromo-4-phenoxybenzothiazole | 3.0 g | BrC=1SC2=C(N1)C(=CC=C2)OC2=CC=CC=C2 | C13H8BrNOS
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-oxo-4-phenoxybenzothiazoline | 2.0 g | O=C1SC2=C(N1)C(=CC=C2)OC2=CC=CC=C2 | C13H9NO2S
